US07160906B2
2-[3-(2-fluorobenzyloxy)-5-(5-methylisoxazol-3-ylmethoxymethyl)-benzoylamino]-5-pyridine Carboxylic Acid (Route 15)
Standard ester hydrolysis (2M NaOH/THF), as described in Example A, of methyl 2-[3-(2-fluorobenzyloxy)-5-(5-methyl isoxazol-3-yl methoxy) methyl benzoyl]aminopyridine-5-carboxylate gave the title compound as a colourless solid, 1H NMR δ (300 MHz, d6-DMSO): 2.40 (s, 3H); 4.58 (s, 4H), 5.22 (s, 2H); 6.26 (s, 1H); 7.21–7.30 (m, 3H); 7.38–7.45 (m, 1H); 7.55–7.60 (ap d, 1H); 7.60 (s, 1H); 7.64 (s, 1H); 8.32 (s, 2H); 8.86 (s, 1H); 11.16 (br s, 1H); m/z 492 (M+H)+, 490 (M−H)−

reactant | NaOH THF | 2M | [OH-].[Na+].C1CCOC1
reactant | methyl 2-[3-(2-fluorobenzyloxy)-5-(5-methyl isoxazol-3-yl methoxy) methyl benzoyl]aminopyridine-5-carboxylate | FC1=C(COC=2C=C(C(=O)NC3=NC=C(C=C3)C(=O)OC)C=C(C2)COCC2=NOC(=C2)C)C=CC=C1 | C27H24FN3O6
product | 2-[3-(2-fluorobenzyloxy)-5-(5-methylisoxazol-3-ylmethoxymethyl)-benzoylamino]-5-pyridine Carboxylic Acid | FC1=C(COC=2C=C(C(=O)NC3=NC=C(C=C3)C(=O)O)C=C(C2)COCC2=NOC(=C2)C)C=CC=C1 | C26H22FN3O6
